US07244843B2
Step E. Preparation of (4R,10bR)-1,3,4,10b-tetrahydro-4-methyl-7-trifluoromethoxy-pyrazino[2,1-a]isoindol-6(2H)-one hydrochloric acid salt
To a stirring solution of N-(t-butoxycarbonyl)-(4R,10bR)-1,3,4,10b-tetrahydro-4-methyl-7-trifluoromethoxy-pyrazino[2,1-a]isoindol-6(2H)-one(30 mg, 0.08 mmol) in dry ether (2 mL) was added hydrochloric acid (1 mL). The reaction was stirred for 1 h and then conc. in vacuo to a white solid. The solid was dissolved in water and lyophilized to 21 mg of a white solid. MS (ESI) 271 (M−Cl).

reactant | N-(t-butoxycarbonyl)-(4R,10bR)-1,3,4,10b-tetrahydro-4-methyl-7-trifluoromethoxy-pyrazino[2,1-a]isoindol-6(2H)-one | 0.08 mmol, 30 mg | C(C)(C)(C)OC(=O)N1C[C@@H]2N(C(C3=C(C=CC=C23)OC(F)(F)F)=O)[C@@H](C1)C | C18H21F3N2O4
reactant | hydrochloric acid | 1 mL | Cl | ClH
solvent | ether | 2 mL | CCOCC | C4H10O
solvent | water | O | H2O
product | (4R,10bR)-1,3,4,10b-tetrahydro-4-methyl-7-trifluoromethoxy-pyrazino[2,1-a]isoindol-6(2H)-one hydrochloric acid salt | Cl.C[C@@H]1CNC[C@@H]2N1C(C1=C(C=CC=C21)OC(F)(F)F)=O | InChI=1S/C13H13F3N2O2.ClH/c1-7-5-17-6-9-8-3-2-4-10(20-13(14,15)16)11(8)12(19)18(7)9;/h2-4,7,9,17H,5-6H2,1H3;1H/t7-,9+;/m1./s1
